US05869519
(3S)-3-[(1-Methylindole-2-Carbonyl)Alaninyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone
1-Methylindole-2-carboxylic acid (107 mg, 0.6 mmol) and (3S)-3-(alaninyl)-amino-4-oxobutanoic acid, t-butyl ester semicarbazone (188 mg, 96%, 0.6 mmol) were dissolved in DMF (2 mL) then both 1-hydroxybenzotriazole-hydrate (96 mg, 0.63 mmol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDAC) (161 mg, 0.84 mmol) was added to the resultant mixture under a nitrogen atmosphere at 0° C. Stirring was continued for 1 hour at 0° C. and an additional 20 hours at room temperature. The reaction mixture was diluted with ethyl acetate, washed successively with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated to give a yellow solid. Trituration of the solid with ether afforded the title product as a slightly yellow powder (213 mg, 77%). TLC: (methanol/methylene chloride: 1/9, silica gel): Rf =0.47; 1H NMR (CDCl3 +CD3OD): δ 7.96 (d, J=8.0, 1H), 7.57-7.67 (m, 2H), 7.31-7.42 (m, 2H), 7.13-7.19 (m, 2H), 7.06 (s, 1H), 4.91 (m, 1H), 4.65 (q, J=7.1, 1H), 4.01 (s, 3H), 2.59-2.78 (m, J=5.6, 15.7, 2H), 1.49 (d, J=7.1, 3H), 1.39 (s, 9H).

reactant | 1-Methylindole-2-carboxylic acid | 0.6 mmol, 107 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | (3S)-3-(alaninyl)-amino-4-oxobutanoic acid, t-butyl ester semicarbazone | 0.6 mmol, 188 mg | N[C@@H](C)C(=O)[C@@H](C(C(OC(C)(C)C)=NNC(=O)N)N)C=O | C12H23N5O4
reactant | 1-hydroxybenzotriazole-hydrate | 0.63 mmol, 96 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.84 mmol, 161 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | (3S)-3-[(1-Methylindole-2-Carbonyl)Alaninyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C22H30N6O5
